US04766125
A mixture of 3.7 parts of 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide, 2.3 parts of 3-chloro-N-(2,6-dimethylphenyl)propanamide, 2.1 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone was stirred and refluxed for 20 hours using a water-separator. The reaction mixture was cooled to room temperature and filtered. The filtrate was evaporated. The oily residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue solidified on triturating in 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.87 parts (70.8%) of 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dimethylphenyl)-1-piperazinepropanamide; mp. 120.9° C. (compound 122)

reactant | 1-[4,4-bis(4-fluorophenyl)butyl]-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCN1C(CNCC1)C(=O)N)C1=CC=C(C=C1)F | C21H25F2N3O
reactant | 3-chloro-N-(2,6-dimethylphenyl)propanamide | ClCCC(=O)NC1=C(C=CC=C1C)C | C11H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-(aminocarbonyl)-4-[4,4-bis(4-fluorophenyl)butyl]-N-(2,6-dimethylphenyl)-1-piperazinepropanamide | 70.8% | NC(=O)C1CN(CCN1CCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CCC(=O)NC1=C(C=CC=C1C)C | C32H38F2N4O2
